* NGSPICE file created from SMCNR_SE_2st_AMP_flat.ext - technology: sky130A

.subckt SMCNR_SE_2st_AMP_flat vdda gnda vin vip ibias vout
X0 vdda ibias a_785_2846# vdda sky130_fd_pr__pfet_01v8 ad=0.0385 pd=0.79 as=0.0385 ps=0.79 w=0.22 l=10
X1 a_4024_586# ibias vdda vdda sky130_fd_pr__pfet_01v8 ad=0.0385 pd=0.79 as=0.0385 ps=0.79 w=0.22 l=10
X2 vout a_20_494# gnda gnda sky130_fd_pr__nfet_01v8 ad=0.259 pd=3.31 as=0.259 ps=3.31 w=1.48 l=10
X3 gnda a_2100_n30# a_20_494# gnda sky130_fd_pr__nfet_01v8 ad=0.2625 pd=3.35 as=0.2625 ps=3.35 w=1.5 l=10
X4 a_2100_n30# vin a_4024_586# vdda sky130_fd_pr__pfet_01v8 ad=1.1656 pd=15.35 as=1.1656 ps=15.35 w=7.52 l=8.24
X5 gnda a_2100_n30# a_4345_n10# gnda sky130_fd_pr__nfet_01v8 ad=0.2625 pd=3.35 as=0.2625 ps=3.35 w=1.5 l=10
X6 vout ibias vdda vdda sky130_fd_pr__pfet_01v8 ad=0.0385 pd=0.79 as=0.0385 ps=0.79 w=0.22 l=10
X7 a_4024_586# vip a_20_494# vdda sky130_fd_pr__pfet_01v8 ad=1.1656 pd=15.35 as=1.1656 ps=15.35 w=7.52 l=8.24
C0 a_2100_n30# vdda 2.63138f
C1 ibias vdda 6.97853f
C2 vip ibias 0.05802f
C3 vip a_2100_n30# 0.11415f
C4 a_2100_n30# a_4345_n10# 0.08803f
C5 a_785_2846# vdda 0.01547f
C6 vout a_20_494# 0.96845f
C7 a_20_494# vdda 0.23551f
C8 a_785_2846# ibias 0.02635f
C9 vip a_20_494# 0.37661f
C10 vout vdda 0.67357f
C11 vin a_4024_586# 0.91307f
C12 a_4024_586# vdda 0.85387f
C13 vin vdda 3.37202f
C14 vip vout 0.09055f
C15 a_2100_n30# a_20_494# 0.12045f
C16 a_20_494# ibias 0.01301f
C17 vip a_4024_586# 0.37862f
C18 vin vip 0.00245f
C19 vip vdda 3.90033f
C20 vout ibias 0.06626f
C21 a_2100_n30# vout 0
C22 a_4345_n10# vdda 0.00829f
C23 a_4024_586# ibias 0.02881f
C24 a_2100_n30# a_4024_586# 0.00859f
C25 vin a_2100_n30# 0.43335f
C26 vin ibias 0.00213f
C27 vin gnda 0.41695f
C28 vip gnda 0.30334f
C29 vout gnda 0.41056f
C30 ibias gnda 1.98759f
C31 vdda gnda 35.8705f
C32 a_4345_n10# gnda 0.09551f
C33 a_2100_n30# gnda 6.57175f
C34 a_20_494# gnda 3.04694f
C35 a_4024_586# gnda 0.4266f
C36 a_785_2846# gnda 0.00878f
.ends

