* Passive-only abstraction netlist generated for diagnostic LVS trial.
* This is not a full layout-extracted LVS netlist.
* xc0: plate_coupling_capacitor_source_equivalent status=candidate_requires_review
* xr0: segmented_resistor_chain_source_equivalent status=candidate_requires_review
.subckt SMCNR_SE_2st_AMP_candidate_passive_abs net027 outn vout
C_xc0 outn net027 1f
R_xr0 net027 vout 1
.ends SMCNR_SE_2st_AMP_candidate_passive_abs
